US07910740B2
To a suspension of 333 mg (2.4 mmol) copper(II) chloride in acetonitrile (2 ml) 1041 mg (12 mmol) ethyl vinylketone and 344 mg (3 mmol) tert.-butylnitrite were added at room temperature. 258 mg (2 mmol) 3-chloroaniline was added slowly. The reaction turned warm and a gas evolved. The reaction was stirred for 30 minutes at room temperature. 25% Aqueous HCl solution was added and the reaction was extracted twice with diethyl ether. The combined organic layers were washed once with 25% aqueous HCl solution and stirred for 10 minutes at room temperature with 314 mg (2 mmol) DBU. A solid precipitated. The reaction was washed once with 25% aqueous HCl solution and once with brine, dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure. The crude product was subjected to high vacuo to yield 357 mg (77%) 2-chloro-1-(3-chloro-phenyl)-pentan-3-one as an orange oil. The crude product was used without further purification in the next step. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=7.26-7.22 (m, 3H), 7.10 (s, 1H), 4.40 (dd, 1H), 3.33 (dd, 1H), 3.04 (dd, 1H), 2.72 (dq, 1H), 2.53 (dq, 1H), 1.07 (t, 3H).

reactant | acetonitrile | 12 mmol, 2 ml, 1041 mg | C(C)#N | C2H3N
reactant | tert.-butylnitrite | 3 mmol, 344 mg | C(C)(C)(C)ON=O | C4H9NO2
reactant | 3-chloroaniline | 2 mmol, 258 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | HCl | Cl | ClH
reactant | DBU | 2 mmol, 314 mg | C1CCC2=NCCCN2CC1 | C9H16N2
catalyst | copper(II) chloride | 2.4 mmol, 333 mg | [Cu](Cl)Cl
product | 2-chloro-1-(3-chloro-phenyl)-pentan-3-one | 357 mg, 77% | ClC(CC1=CC(=CC=C1)Cl)C(CC)=O | C11H12Cl2O
